US08217065B2
(2-tert-Butyl-pyridin-4-yl)-{5-[2-(2,6-dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-amine
Combine 4-amino-3-tert-butyl-pyridine (91 mg, 0.606 mmol) and di -imidazol-1-yl-methanethione (108 mg, 0.606 mmol) in DMF (1.5 mL) and stir overnight. Add 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide (150 mg, 0.466 mmol) and DMF (1 mL). Stir for 6.5 hr. Add EDCI (179 mg, 0.932 mmol) and heat to 80° C. for 1 hr. Upon cooling, dilute the reaction with EtOAc (75 mL) and extract with water (10 mL). Dry the organic phase over Na2SO4 and evaporate the solvent. Purify the residue by silica gel chromatography (3-6% MeOH/DCM) followed by reverse-phase HPLC (20-60% ACN/H2O+5 mM NH4OH) to afford the title compound as a light yellow solid: 1H NMR (400 MHz, DMSO-d6) ppm 1.33 (s, 9 H) 7.41 (dd, J=5.49, 1.33 Hz, 1 H) 7.63-7.73 (m, 4H) 7.78 (tautomer, d, J=8.46 Hz, 1 H) 7.81-7.86 (tautomer, m, 1 H) 7.91 (m, 1 H) 8.06 (tautomer, d, J=0.88 Hz, 1H) 8.19 (tautomer, s, 1 H) 8.41 (d, J=5.56 Hz, 1 H) 11.13 (s, 1 H) 13.31 (d, J=4.29 Hz, 1 H); MS m/z=479.8 (M+1).

reactant | 4-amino-3-tert-butyl-pyridine | 0.606 mmol, 91 mg | NC1=C(C=NC=C1)C(C)(C)C | C9H14N2
reactant | di -imidazol-1-yl-methanethione | 0.606 mmol, 108 mg | N1(C=NC=C1)C(=S)N1C=NC=C1 | C7H6N4S
reactant | 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide | 0.466 mmol, 150 mg | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C(=O)NN | C14H10Cl2N4O
reactant | EDCI | 0.932 mmol, 179 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
product | (2-tert-Butyl-pyridin-4-yl)-{5-[2-(2,6-dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-amine | C(C)(C)(C)C1=NC=CC(=C1)NC=1OC(=NN1)C1=CC2=C(N=C(N2)C2=C(C=CC=C2Cl)Cl)C=C1 | C24H20Cl2N6O
